US04550118
5-Chloromethyl-2-dimethylaminomethylbenzimidazole, 2hydrochloride (melting point 248.4° C., 3.64 g) was produced by subjecting 2-dimethylaminomethyl-5-hydroxymethylbenzimidazole (3 g) and thionylchloride (10.5 ml) to a 4-hour refluxing with heat. 2-Mercaptopropionitrile (1.05 g) was changed into sodium salt by sodium ethoxide and, at a temperature of 0° C., methanol solution of the above-mentioned chloromethyl compound was added gradually and the mixture was stirred through one whole night at the room temperature to yield 5-[(2-cyanoethyl)thiomethyl]-2-dimethylaminomethylbenzimidazole (3.2 g).

reactant | 2-dimethylaminomethyl-5-hydroxymethylbenzimidazole | 3 g | CN(C)CC=1NC2=C(N1)C=CC(=C2)CO | C11H15N3O
reactant | thionylchloride | 10.5 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 2-Mercaptopropionitrile | 1.05 g | SC(C#N)C | C3H5NS
reactant | sodium | [Na] | Na
reactant | sodium ethoxide | [O-]CC.[Na+]
solvent | methanol | CO | CH4O
product | 5-[(2-cyanoethyl)thiomethyl]-2-dimethylaminomethylbenzimidazole | 3.2 g | C(#N)CCSCC1=CC2=C(N=C(N2)CN(C)C)C=C1 | C14H18N4S
